US08580762B2
Step 9. (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-({methyl[(3-{[5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl]amino}methyl)cyclopentane-1,2-diol
A solution of HCl in MeOH (1:1, 3 ml) was added to 7-[(3aS,4R,6R,6aR)-2,2-dimethyl-6-({methyl[(3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl]amino}methyl)-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine at 0° C. and stirred. This was then immediately stirred at 40° C. for 4 h (reaction monitored by LCMS) The reaction was continued for a further 1 h. LCMS still showed 30% acetal deprotected SM. A further 1 ml of HCl (36% aq) was added to the reaction mixture and continued at 40° C. for a further 1 h. The reaction mixture was then evaporated in vacuo. The residue was dissolve in DCM (100 ml)+MeOH (1 ml) and washed with sat. NaHCO3 (2×50 ml), dried over Na2SO4, filtered and evaporated. Purification by prep.TLC, eluting with 7N NH3 in MeOH:DCM (1:9); MS (ESI+) for C27H32F3N7O2 m/z 544 [M+H]+; HPLC purity 96% (ret. time, 2.03 min); 1H NMR (500 MHz, MeOD) δH ppm 1.47-1.58 (1 H, m), 1.58-1.69 (1 H, m), 1.87-2.12 (1 H, m), 2.12-2.54 (10 H, m), 2.53-2.91 (3 H, m), 2.93-3.15 (2 H, m), 3.88-4.08 (1 H, m), 4.32 (1 H, dd, J=7.57, 6.15 Hz), 4.88-5.01 (1 H, m), 6.59 (1 H, d, J=3.63 Hz), 7.20 (1 H, d, J=3.63 Hz), 7.42-7.53 (1 H, m), 7.63 (1 H, d, J=8.20 Hz), 7.79 (1 H, s), 7.95-8.22 (1 H, m).

reactant | HCl | Cl | ClH
reactant | 7-[(3aS,4R,6R,6aR)-2,2-dimethyl-6-({methyl[(3-{[5-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl]amino}methyl)-hexahydrocyclopenta[d][1,3]dioxol-4-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | CC1(O[C@@H]2[C@H](O1)[C@H](C[C@H]2N2C=CC1=C2N=CN=C1N)CN(CC1CC(C1)CC1=NC2=C(N1COCC[Si](C)(C)C)C=CC(=C2)C(F)(F)F)C)C | C36H50F3N7O3Si
reactant | HCl | 1 ml | Cl | ClH
solvent | MeOH | 3 ml | CO | CH4O
product | (1R,2S,3R,5R)-3-{4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-5-({methyl[(3-{[5-(trifluoromethyl)-1H-1,3-benzodiazol-2-yl]methyl}cyclobutyl)methyl]amino}methyl)cyclopentane-1,2-diol | NC=1C2=C(N=CN1)N(C=C2)[C@H]2[C@@H]([C@@H]([C@H](C2)CN(CC2CC(C2)CC2=NC1=C(N2)C=CC(=C1)C(F)(F)F)C)O)O | C27H32F3N7O2
